US08871756B2
N-(trans-4-Fluoropyrrolidin-3-yl)-6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4 (5H)-yl)quinazolin-4-amine
A mixture of benzyl trans-3-fluoro-4-{[6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-yl]amino}pyrrolidine-1-carboxylate (200 mg, 0.35 mmol) and an aqueous solution of hydrochloric acid (5 mL, 6 N) was refluxed for 6 hours. The resulting mixture was basified by adding an aqueous solution of sodium hydroxide (1 N) to pH 10, and then extracted with dichloromethane (50 mL). The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by preparative HPLC to afford the desired compound as a yellow solid. MS obsd. (ESI+) [(M+H)+] 426, 1H NMR (400 MHz, CD3OD) δ ppm 7.76 (m, 3 H), 7.45 (m, 4 H), 5.32 (m, 3 H), 4.61 (s, 3 H), 3.70-3.11 (m, 6 H), 2.41 (s, 3 H).

reactant | benzyl trans-3-fluoro-4-{[6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-yl]amino}pyrrolidine-1-carboxylate | 0.35 mmol, 200 mg | F[C@@H]1CN(C[C@H]1NC1=NC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)=O)C(=O)OCC2=CC=CC=C2 | C30H30FN5O3S
reactant | hydrochloric acid | 6 N, 5 mL | Cl | ClH
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
product | N-(trans-4-Fluoropyrrolidin-3-yl)-6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4 (5H)-yl)quinazolin-4-amine | F[C@H]1[C@@H](CNC1)NC1=NC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)=O | C22H24FN5OS
